US08309580B2
(7) 3-({[4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-thiopyran-4-yl)thiophen-3-yl]methyl}amino)phenyl]carbonyl}amino)propanoic acid
To a mixture of ethyl 3-({[4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-thiopyran-4-yl)thiophen-3-yl]methyl}amino)phenyl]carbonyl}amino)propanoate (338 mg) synthesized above, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at room temperature for 3 hr, and concentrated under reduced pressure. The residue was dissolved in water (10 mL), and 1N hydrochloric acid (1 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (296 mg, 93%) as a white solid.

reactant | ethyl 3-({[4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-thiopyran-4-yl)thiophen-3-yl]methyl}amino)phenyl]carbonyl}amino)propanoate | 338 mg | C1(CCCCC1)C(C1=C(SC(=C1)C1CCSCC1)CC)NC1=CC=C(C=C1)C(=O)NCCC(=O)OCC | C30H42N2O3S2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-({[4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-thiopyran-4-yl)thiophen-3-yl]methyl}amino)phenyl]carbonyl}amino)propanoic acid | 296 mg, 93% | C1(CCCCC1)C(C1=C(SC(=C1)C1CCSCC1)CC)NC1=CC=C(C=C1)C(=O)NCCC(=O)O | C28H38N2O3S2
